US05371100
Using (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl] ethanol (607 mg) and 6-chloropurine (422 mg), (2S)-2-[(1R)-1-[6-chloro-9(9H) -purinyl]ethyl]-2-(2,4-difluorophenyl) oxirane (440 mg) was obtained as a white powder by the same way as in Reference Example 2.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl] ethanol | 607 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 6-chloropurine | 422 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
product | (2S)-2-[(1R)-1-[6-chloro-9(9H) -purinyl]ethyl]-2-(2,4-difluorophenyl) oxirane | 440 mg | ClC1=C2N=CN(C2=NC=N1)[C@H](C)[C@@]1(OC1)C1=C(C=C(C=C1)F)F | C15H11ClF2N4O
